* mult4bit.spi ---
*
*   Example use of d_lut and d_genlut xspice models
*
*   4 bit parallel multiplier using the d_genlut xspice cell to represent
*   full and half adders, and using the d_lut xspice cell to represent the
*   AND gates.
*
*   The LUTs are represented by a string indicating the output for each
*   combination of inputs.  So a 2-input AND gate is represented by
*   "0001".  The d_genlut model allows multiple outputs, and the string
*   result is the same as a d_lut with the strings for each output
*   concatenated.  So the sum output of a full adder is "01101001"
*   (A ^ B ^ C), and the carry output is "00010111" (AB + BC + AC), so the
*   string representation of the d_genlut output is "0110100100010111".
*
*   subcircuit inputs are aa[3:0] and ab[3:0], output is ap[7:0]
*   testbench inputs are a[3:0] and b[3:0], output is p[7:0]
*---------------------------------------------------------------------------

.subckt mult4bit ap7 ap6 ap5 ap4 ap3 ap2 ap1 ap0 aa3 aa2 aa1 aa0 ab3 ab2 ab1 ab0

* A-to-D and D-to-A bridges
.MODEL todig_3v adc_bridge(in_high=0.7 in_low=0.3 rise_delay=100n fall_delay=100n)
.MODEL toana_3v dac_bridge(out_high=1.0 out_low=0.0)

AA2D00 [ab3 ab2 ab1 ab0 aa3 aa2 aa1 aa0] [db3 db2 db1 db0 da3 da2 da1 da0] todig_3v
AD2A00 [dp7 dp6 dp5 dp4 dp3 dp2 dp1 dp0] [ap7 ap6 ap5 ap4 ap3 ap2 ap1 ap0] toana_3v

* Instantiate the 4-bit multiplier
* LUT model representing a 2-input AND gate
.model d_lut_and2 d_lut (rise_delay=50n fall_delay=50n input_load=1.0p
+ table_values "0001")

* genLUT model representing a half adder
.model d_genlut_ha d_genlut (rise_delay=[50n 50n] fall_delay=[50n 50n]
+ input_load=[1.0p 1.0p] input_delay=[2n 2n] table_values "01100001")

* genLUT model representing a full adder
.model d_genlut_fa d_genlut (rise_delay=[50n 50n] fall_delay=[50n 50n]
+ input_load=[1.0p 1.0p 1.0p] input_delay=[2n 2n 2n] table_values "0110100100010111")

* Instantiate the 4-bit multiplier
AAND00 [da0 db0] dp0 d_lut_and2
AAND10 [da1 db0] h0a d_lut_and2
AAND11 [da0 db1] h0b d_lut_and2
AAND20 [da2 db0] f0a d_lut_and2
AAND21 [da1 db1] f0b d_lut_and2
AAND22 [da0 db2] h1b d_lut_and2
AAND30 [da3 db0] f1a d_lut_and2
AAND31 [da2 db1] f1b d_lut_and2
AAND32 [da1 db2] f2b d_lut_and2
AAND33 [da0 db3] h2b d_lut_and2
AAND40 [da3 db1] h3b d_lut_and2
AAND41 [da2 db2] f3b d_lut_and2
AAND42 [da1 db3] f4b d_lut_and2
AAND50 [da3 db2] f5b d_lut_and2
AAND51 [da2 db3] f6b d_lut_and2
AAND60 [da3 db3] f7b d_lut_and2

AHA0 [h0a h0b] [dp1 f0c] d_genlut_ha
AHA1 [h1a h1b] [dp2 f2c] d_genlut_ha
AHA2 [h2a h2b] [dp3 f4c] d_genlut_ha
AHA3 [h3a h3b] [f3a f5a] d_genlut_ha

AFA0 [f0a f0b f0c] [h1a f1c] d_genlut_fa
AFA1 [f1a f1b f1c] [f2a h3a] d_genlut_fa
AFA2 [f2a f2b f2c] [h2a f3c] d_genlut_fa
AFA3 [f3a f3b f3c] [f4a f5c] d_genlut_fa
AFA4 [f4a f4b f4c] [dp4 f6c] d_genlut_fa
AFA5 [f5a f5b f5c] [f6a f7a] d_genlut_fa
AFA6 [f6a f6b f6c] [dp5 f7c] d_genlut_fa
AFA7 [f7a f7b f7c] [dp6 dp7] d_genlut_fa

.ends

* Testbench to exercise the multiplier

* Eight pulsed voltage sources to run through the bits of a and b
VV7 b3 0 DC=0 PULSE(0 1 6400u 100n 100n 6400u 12800u)
VV6 b2 0 DC=0 PULSE(0 1 3200u 100n 100n 3200u  6400u)
VV5 b1 0 DC=0 PULSE(0 1 1600u 100n 100n 1600u  3200u)
VV4 b0 0 DC=0 PULSE(0 1  800u 100n 100n  800u  1600u)
VV3 a3 0 DC=0 PULSE(0 1  400u 100n 100n  400u   800u)
VV2 a2 0 DC=0 PULSE(0 1  200u 100n 100n  200u   400u)
VV1 a1 0 DC=0 PULSE(0 1  100u 100n 100n  100u   200u)
VV0 a0 0 DC=0 PULSE(0 1   50u 100n 100n   50u   100u)

* Give a capacitive load to the outputs
C7 p7 0 10f
C6 p6 0 10f
C5 p5 0 10f
C4 p4 0 10f
C3 p3 0 10f
C2 p2 0 10f
C1 p1 0 10f
C0 p0 0 10f

Xmult4 p7 p6 p5 p4 p3 p2 p1 p0 a3 a2 a1 a0 b3 b2 b1 b0 mult4bit

* Run the transient simulation

.control

tran 50us 12825us 25us
rusage
linearize

let aa = (((v(a3))*2 + v(a2))*2 + v(a1))*2 + v(a0)
let bb = (((v(b3))*2 + v(b2))*2 + v(b1))*2 + v(b0)

let pp = (((((((v(p7))*2 + v(p6))*2 + v(p5))*2 + v(p4))*2 + v(p3))*2 + v(p2))*2 + v(p1))*2 + v(p0)

let pp_gold = aa * bb

plot aa bb pp

let err = vecmax(abs(pp - pp_gold))

if $&err > 1e-6
  echo "ERROR: multiplier output does not match golden response"
else
  echo "INFO: multiplier output does match golden response"
end

.endc

.end
